US07119203B2
Preparation of 4-{[4-(5-butylthien-2-yl)piperidin-1-yl]sulfonyl}-N-hydroxytetrahydro-2H-pyran-4-carboxamide
Part F. Preparation of 4-{[4-(5-butylthien-2-yl)piperidin-1-yl]sulfonyl}-N-(tetrahydro-2H-pyran-2-yloxy)tetrahydro-2H-pyran-4-carboxamide. A methylene chloride solution (8.0 mL) of the ester prepared in Part E (3.27 g, 6.93 mmol) was treated with trifluoroacetic acid (8.0 mL, 104 mmol) and stirred at ambient temperature. After 4 hr, the mixture was concentrated in vacuo to approximately 8.0 mL, then treated with diethyl ether (15 mL). The resulting mixture was concentrated in vacuo to approximately 4.0 mL, then treated with diethyl ether (15 mL). The resulting precipitate was filtered, washed with diethyl ether, and dried in vacuo. The resulting white solid (2.93 g) was dissolved in N,N-dimethylformamide (14.1 mL), treated with 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (2.03 g, 10.6 mmol) and N-hydroxybenzo-triazole hydrate (1.43 g, 10.6 mmol), and stirred at ambient temperature under N2. After 1 hr, the resulting suspension was treated with O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (1.24 g, 10.6 mmol), followed by N-methylmorpholine (2.33 mL, 21.2 mmol). After 30 min, the mixture was diluted with ethyl acetate (100 mL) and partitioned with water (50 mL). The aqueous layer was separated and then extracted with ethyl acetate (25 mL). The organic layers were combined, washed with saturated NaHCO3 (25 mL), washed with 1:1 brine/water (25 mL), washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The resulting oil was purified on silica, eluting with 1:1 hexanes/ethyl acetate to produce the product in the form of a colorless glassy solid having an 11:4 mixture of desired product/impurity (3.52 g, 98.6% mass recovery). LC/MS m/z=537 [M+Na] for desired product

reactant | 4-{[4-(5-butylthien-2-yl)piperidin-1-yl]sulfonyl}-N-(tetrahydro-2H-pyran-2-yloxy)tetrahydro-2H-pyran-4-carboxamide | C(CCC)C1=CC=C(S1)C1CCN(CC1)S(=O)(=O)C1(CCOCC1)C(=O)NOC1OCCCC1 | C24H38N2O6S2
reactant | trifluoroacetic acid | 104 mmol, 8.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 10.6 mmol, 2.03 g | Cl.CN(CCCN=C=NCC)C
reactant | N-hydroxybenzo-triazole hydrate | 10.6 mmol, 1.43 g | O.ON1N=NC2=C1C=CC=C2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 10.6 mmol, 1.24 g | O1C(CCCC1)ON | C5H11NO2
reactant | N-methylmorpholine | 21.2 mmol, 2.33 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 8.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{[4-(5-butylthien-2-yl)piperidin-1-yl]sulfonyl}-N-hydroxytetrahydro-2H-pyran-4-carboxamide | C(CCC)C1=CC=C(S1)C1CCN(CC1)S(=O)(=O)C1(CCOCC1)C(=O)NO | C19H30N2O5S2
